US06995153B2
3-amino-1-propanol (150 g) was dissolved in tetrahydrofuran (200 mL), followed by the addition of benzylamine(23.8 g). The mixture was stirred at room temperature for 1 hour. Subsequently, the reaction mixture was diluted with ethyl acetate, was sequentially washed with water and a saturated aqueous solution of sodium chloride, and was then dried over anhydrous sodium sulfate. The solvent was removed to obtain 3-(benzylamino)-1-propanol (20.1 g, 61%).

reactant | 3-amino-1-propanol | 150 g | NCCCO | C3H9NO
reactant | benzylamine | 23.8 g | C(C1=CC=CC=C1)N | C7H9N
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(benzylamino)-1-propanol | 20.1 g, 61% | C(C1=CC=CC=C1)NCCCO | C10H15NO
